US08383821B2
tert-Butyl 4-((2-methoxy-5-(2-methyl-2H-tetrazol-5-yl)benzyloxy)methyl)-4-phenylpiperidine-1-carboxylate.
5-(3-(Bromomethyl)-4-methoxyphenyl)-2-methyl-2H-tetrazole (35.0 mg, 0.12 mmol) and tert-butyl 4-(hydroxymethyl)-4-phenylpiperidine-1-carboxylate (40.0 mg, 0.14 mmol) were combined in dimethylformamide (1 mL) and cooled to 0° C. The reaction was treated with sodium hydride (3.2 mg, 0.14 mmol), stirred at 0° C. for 1 h, and at room temperature overnight. The solvents were removed in vacuo and the crude product purified by column chromatography on silica gel (30% ethyl acetate/hexanes) to afford 30 mg (50%). LC/MS (HPLC method 3): tR=3.29 min, 494.25 (MH)+.

reactant | 5-(3-(Bromomethyl)-4-methoxyphenyl)-2-methyl-2H-tetrazole | 0.12 mmol, 35.0 mg | BrCC=1C=C(C=CC1OC)C=1N=NN(N1)C | C10H11BrN4O
reactant | tert-butyl 4-(hydroxymethyl)-4-phenylpiperidine-1-carboxylate | 0.14 mmol, 40.0 mg | OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C17H25NO3
reactant | sodium hydride | 0.14 mmol, 3.2 mg | [H-].[Na+]
solvent | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | tert-Butyl 4-((2-methoxy-5-(2-methyl-2H-tetrazol-5-yl)benzyloxy)methyl)-4-phenylpiperidine-1-carboxylate | COC1=C(COCC2(CCN(CC2)C(=O)OC(C)(C)C)C2=CC=CC=C2)C=C(C=C1)C=1N=NN(N1)C | C27H35N5O4
